US05635510
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-[2,6-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid amide hydrochloride
1-[2-[3-(3,4-Dichloro-phenyl)-1-(2,6-dimethoxybenzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide (1.8 mmol) was dissolved in dichloromethane (20 mL) and treated with a solution of dichloromethane saturated with HCl(g) (20 mL). The solution was allowed to stir for 1 h. The solution was concentrated in vacuo to obtain a residue. The residue was dried under high vacuum at 56° C. for 18 h to give the title compound.

reactant | 1-[2-[3-(3,4-Dichloro-phenyl)-1-(2,6-dimethoxybenzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | 1.8 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C33H37Cl2N3O4
reactant | HCl | 20 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-[2,6-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid amide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | InChI=1S/C33H37Cl2N3O4.ClH/c1-41-27-9-6-10-28(42-2)29(27)30(39)38-20-14-32(22-38,24-11-12-25(34)26(35)21-24)13-17-37-18-15-33(16-19-37,31(36)40)23-7-4-3-5-8-23;/h3-12,21H,13-20,22H2,1-2H3,(H2,36,40);1H
